US07501518B2
To a solution of 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzoic acid methyl ester (0.420 g, 1.01 mmol) in MeOH (5 mL) was added water (5 mL) and solid NaOH (0.448 g, 11.21 mmol). The resultant mixture was heated to reflux overnight then cooled to room temperature. The mixture was adjusted to pH ˜5 with 6 N HCl (˜2 mL) and extracted with CH2Cl2 (5×20 mL). The combined organic extracts were dried (Na2SO4) and concentrated and provided 0.440 g (quantitative yield) of 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzoic acid as a white solid. 1H NMR (CDCl3) δ 1.80-2.05 (m, 6H), 2.42 (s, 6H), 3.83 (br s, 2H), 4.55 (br s, 2H) 6.79 (d, 2H, J=8.1 Hz), 7.02 (dd, 2H, J=7.5, 5.1 Hz), 7.34 (d, 2H, J=7.5 Hz), 7.65 (d, 2H, J=7.8 Hz), 8.42 (d, 2H, J=3.9 Hz); ES-MS m/z 402 (M+H).

reactant | 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzoic acid methyl ester | 1.01 mmol, 0.420 g | COC(C1=CC=C(C=C1)CN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C)=O | C26H29N3O2
reactant | water | 5 mL | O | H2O
reactant | NaOH | 11.21 mmol, 0.448 g | [OH-].[Na+]
reactant | HCl | 6 N, ˜2 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzoic acid | 0.440 g, quantitative yield | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CC1=CC=C(C(=O)O)C=C1 | C25H27N3O2
